US07851626B2
rac-4-[(4S*,5R*)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-2-one
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 2-piperazinone (Avocado Organics) to give the title compound. LC-MS: 607.2 [(M+H)+]

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C29H29Cl3N2O2
reactant | 2-piperazinone | N1C(CNCC1)=O | C4H8N2O
product | rac-4-[(4S*,5R*)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-2-one | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)N1CC(NCC1)=O)OCC | C33H36Cl2N4O3
